US05159082
3.56 g (20 mmol) of sodium p-toluenesulfinate, 3.14 g (20 mmol) of bromobenzene, 11.2 g (200 mmol) of calcium oxide, 60 ml of N-methyl-2-pyrrolidone and each catalyst compound and each organophosphorus compound ligand indicated in Table 2 were placed in 100 ml round bottom flask and reacted at 150° C. in a nitrogen gas stream for 6 hours, respectively. After the completion of the reaction, the amount of 4-methylbiphenyl formed was analyzed by means of high performance liquid chromatography. The results are shown in Table 2.

reactant | sodium p-toluenesulfinate | 20 mmol, 3.56 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | bromobenzene | 20 mmol, 3.14 g | BrC1=CC=CC=C1 | C6H5Br
reactant | calcium oxide | 200 mmol, 11.2 g | [O-2].[Ca+2]
solvent | N-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | 4-methylbiphenyl | CC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12
